US08420637B2
Synthesis of 4-(6-Isopropenyl-3-methylcyclohex-2-enyl)-5-methylbenzene-1,3-diol
(4R)-1-Methyl-4-isopropenylcyclohex-2-ene-1-ol (300 mg, 2 mmoles) was dissolved in toluene (20 ml) and 5-methylresorcinol (248 mg, 2 mmoles) was added in diethyl ether (5 ml). Oxalic acid dihydrate (252 mg, 2 mmoles) was added and the reaction mixture heated with stirring at 80° for 5 hours. The reaction mixture was allowed to cool and diluted with diethyl ether (30 ml). The ether solution was washed twice with aqueous sodium bicarbonate and dried over anhydrous magnesium sulphate. The solvents were evaporated under reduced pressure to give the crude product as a brown oil (800 mg). The product was purified using a silica column eluted with ethyl acetate:isohexane 1:9 going to ethyl acetate:isohexane 2:8. The product was isolated as a yellow gum (106 mg)

reactant | (4R)-1-Methyl-4-isopropenylcyclohex-2-ene-1-ol | 2 mmoles, 300 mg | CC1(C=C[C@@H](CC1)C(=C)C)O | C10H16O
reactant | 5-methylresorcinol | 2 mmoles, 248 mg | CC=1C=C(C=C(O)C1)O | C7H8O2
reactant | Oxalic acid dihydrate | 2 mmoles, 252 mg | O.O.C(C(=O)O)(=O)O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4-(6-Isopropenyl-3-methylcyclohex-2-enyl)-5-methylbenzene-1,3-diol | 106 mg | C(=C)(C)C1CCC(=CC1C1=C(C=C(C=C1C)O)O)C | C17H22O2
